### PR TITLE
[Merged by Bors] - feat: port Topology.Homotopy.HomotopyGroup

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
Thanks for the mini-refactor in place. :-)

bors merge

File: Mathlib/Topology/Homotopy/HomotopyGroup.lean [hunk 1]
```diff
@@ -0,0 +1,286 @@
...
+  ⟨Homotopic, equiv⟩
+#align gen_loop.homotopic.setoid GenLoop.Homotopic.setoid
+
+protected theorem diagonal [NeZero n] (H : f.Homotopic g) :
+    f.diagonal.Homotopic g.diagonal := by
+  rcases H with ⟨H⟩
+  refine ⟨H.compContinuousMap _, ?_⟩
+  rintro t _ (rfl | rfl)
+  · exact H.prop' _ _ Cube.zero_mem_boundary
+  · exact H.prop' _ _ Cube.one_mem_boundary
```
Comment (alreadydone) [inline Mathlib/Topology/Homotopy/HomotopyGroup.lean:202]: This lemma doesn't seem to have existed in mathlib3 ... Why is it introduced without a porting note?
